US07419984B2
To a mixture of 4,6-dichloro-pyrimidin-2-ylamine (0.50 g, 3.0 mmol), 5-chloro-2-ethoxy-phenyl boronic acid (0.61 g, 3.0 mmol), palladium (II) acetate (0.10 g, 0.46 mmol), and triphenylphosphine (0.24 g, 0.91 mmol) was added a solution of sodium carbonate (1.6 g, 15.2 mmol) in water (5 ml) followed by glyme (20 ml). The mixture was stirred under an argon atmosphere at room temperature for 3.5 hours. Acetone (20 ml) was added and the mixture was filtered through a pad of celite under suction. The filtrated was concentrated under reduced pressure and the residue was purified by flash chromatography on silica gel eluting with 15% ethyl acetate-hexane followed by 20% ethyl acetate-hexane to provide 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine (0.625 g, 73% yield) as a white powder.

reactant | 4,6-dichloro-pyrimidin-2-ylamine | 3.0 mmol, 0.50 g | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | 5-chloro-2-ethoxy-phenyl boronic acid | 3.0 mmol, 0.61 g | ClC=1C=CC(=C(C1)B(O)O)OCC | C8H10BClO3
reactant | triphenylphosphine | 0.91 mmol, 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 15.2 mmol, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 5 ml | O | H2O
catalyst | palladium (II) acetate | 0.46 mmol, 0.10 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Acetone | 20 ml | CC(=O)C | C3H6O
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
product | 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine | 0.625 g, 73% yield | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N | C12H11Cl2N3O
